US07648986B2
Step 3: Preparation of 2-(1-benzothien-2-yl)pyrido[2,3-d]pyrimidin-4-ol
To a solution of 2-[(1-benzothien-2-ylcarbonyl)amino]nicotinamide (0.3 g, 1.0 mmol) in ethanol (20 mL) was added NaOH (10 N, 0.3 mL, 3.0 mmol). The resulting solution was heated to reflux overnight. On cooling to rt the solvent was removed under reduced pressure. The residue was dissolved in excess of water and acidified with HCl. The resulting precipitate was filtered and washed with water to afford the product as yellow powder (0.16 g, 57%). HPLC/MS: (M+H)+ 280.0 m/z; Retention time (LC-MS)=2.66 min; 1H NMR (DMSO-D6): 13.17 (1H, s); 8.94(1H, m); 8.61(1H, s); 8.50(1H, d); 8.08(1H, d); 7.97(1H, d); 7.52(3H, m).

reactant | 2-[(1-benzothien-2-ylcarbonyl)amino]nicotinamide | 1.0 mmol, 0.3 g | S1C(=CC2=C1C=CC=C2)C(=O)NC2=C(C(=O)N)C=CC=N2 | C15H11N3O2S
reactant | NaOH | 3.0 mmol, 10 N, 0.3 mL | [OH-].[Na+]
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | 2-(1-benzothien-2-yl)pyrido[2,3-d]pyrimidin-4-ol | 0.16 g, 57% | S1C(=CC2=C1C=CC=C2)C=2N=C(C1=C(N2)N=CC=C1)O | C15H9N3OS
